US06890916B2
7, 5-Fluoro-3-{1-[4-(3,4-dihydro-1H-isoquinolin-2-yl)-4-oxobutan-1-yl]piperidin-4-yl}-1H-indole
A mixture of 5-fluoro-3-(piperidin-4-yl)-1H-indole (3.0 g), butanone (200 mL), tetrahydrofuran (200 mL), methanol (30 mL), potassium iodide (11.4 g) and triethylamine (7.6 mL) was heated until reflux temperature followed by the addition of a solution of 4-chloro-1-(3,4-dihydro-1H-isoquinolin-2-yl)butan-1-one (14.6 g) in butanone (50 mL). The mixture was boiled under reflux for 2 h, filtered hot and concentrated in vacuo. The residue was purified by flash chromatography on silicagel (eluent:ethyl acetate/ethanol/triethylamine 100:5:5) to give the crude product. The title compound was isolated as the free base from ethyl acetate as a white crystalline compound (0.9 g). Mp 146-148° C. 1H NMR (DMSO-d6): 1.55-1.70 (m, 2H); 1.70-1.80 (m, 2H); 1.85-1.95 (m, 2H); 2.00 (q, 2H); 2.30 (q, 2H); 2.35-2.45 (m, 2H); 2.60-2.70 (m, 1H); 2.75 (t, 0.8H); 2.80-3.00 (m, 3.2H); 3.65 (t, 2H); 4.60 (s, 1.2H); 4.70 (s, 0.8H); 6.85-6.95 (m, 1H); 7.10-7.20 (m, 5H); 7.25 (d, 1H); 7.30-7.35 (m, 1H); 10.85 (s, 1H). MS m/z: 420 (MH+), 202.

reactant | 5-fluoro-3-(piperidin-4-yl)-1H-indole | 3.0 g | FC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15FN2
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | potassium iodide | 11.4 g | [I-].[K+]
reactant | 4-chloro-1-(3,4-dihydro-1H-isoquinolin-2-yl)butan-1-one | 14.6 g | ClCCCC(=O)N1CC2=CC=CC=C2CC1 | C13H16ClNO
solvent | butanone | 50 mL | CC(CC)=O | C4H8O
solvent | butanone | 200 mL | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 7.6 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 30 mL | CO | CH4O
product | 5-Fluoro-3-{1-[4-(3,4-dihydro-1H-isoquinolin-2-yl)-4-oxobutan-1-yl]piperidin-4-yl}-1H-indole | FC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCCC(=O)N1CC2=CC=CC=C2CC1 | C26H30FN3O
